US09212190B2
To a solution of 2-[(3R)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetonitrile (330 mg, 0.80 mmol, 1.00 equiv) in methanol (10 mL) was added LiOH.H2O (101 mg, 2.40 mmol, 3.00 equiv) and H2O2 (30%, 0.5 mL) at 0° C. The resulting solution was stirred for 2 h at room temperature and quenched with Na2SO3 (aq.), extracted with DCM (80 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (10:1) to give 50 mg (15%) of 2-[(3R)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide as a white solid. [Note: The product was found to decompose during column purification].

reactant | 2-[(3R)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetonitrile | 0.80 mmol, 330 mg, 1.00 equiv | O=C1CN(CCN1)C1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CC#N | C21H25N5O2S
reactant | LiOH.H2O | 2.40 mmol, 101 mg, 3.00 equiv | O[Li].O
reactant | H2O2 | 0.5 mL | OO | H2O2
solvent | methanol | 10 mL | CO | CH4O
product | 2-[(3R)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide | 50 mg, 15% | O=C1CN(CCN1)C1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(=O)N | C21H27N5O3S
